data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_609710_1,[C:1]([C:3]1=[C:4]([H:8])[O:7][C:2](=[C:5]([H:12])[H:13])[O:6]1)([H:9])([H:10])[H:11]>>[C:1]([C:3]([C:4]1([H:8])[C:2](=[C:5]([H:12])[H:13])[O:7]1)=[O:6])([H:9])([H:10])[H:11],66.65242250000631
MR_138236_1,[C@:1]1([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[C:2]([H:11])([H:12])[N:8][C:6]([C:4]([H:16])([H:17])[H:18])[N:5]1[H:10]>>[C@:1]1([C:3]([H:13])([H:14])[H:15])([O:7][H:9])[C:2]([H:11])([H:12])[N:8]1/[C:6]([C:4]([H:16])([H:17])[H:18])=[N:5]/[H:10],52.57571499998434
MR_450041_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[N:6]([H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:5](\[C:3]([H:16])([H:17])[H:18])[N:7]([C:2]([H:13])([H:14])[H:15])[N:6]([H:8])[H:9])([H:10])([H:11])[H:12],69.73219250000653
MR_109157_0,[C:1]1([N:3]([H:8])[H:10])([H:7])[C:2]([N:4]([H:9])[H:11])([H:6])[O:5]1>>[C:1](\[C:2]([N:4]([H:9])[H:11])([O:5][H:8])[H:6])(=[N:3]/[H:10])[H:7],28.192947500051133
MR_527574_0,[C:1]([C:4]([C:6](/[C:3](=[N:2]\[H:10])[O:7][H:9])([N:5]([H:11])[H:12])[H:13])=[O:8])([H:14])([H:15])[H:16]>>[C:1]([C:4]([N:2](/[C:3](=[C:6](/[N:5]([H:11])[H:12])[H:13])[O:7][H:9])[H:10])=[O:8])([H:14])([H:15])[H:16],59.426132500023954
MR_78821_0,[C:1]([C:3](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])/[N:7]=[C:5](\[N:4]([H:8])[H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[N:7][C:5]([N:4]([H:8])[H:9])([H:10])[C:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],55.959194999966826
MR_279713_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:6]([N:9]([H:12])[H:13])[H:10])([C:7]([C:3]([H:17])([H:18])[H:19])=[C:8]([C:4]([H:20])([H:21])[H:25])[C:5]([H:22])([H:23])[H:24])[H:11]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:7](/[C:3]([H:17])([H:18])[H:19])[C:8]([C:4]([H:20])([H:21])[H:25])([C:5]([H:22])([H:23])[H:24])[N:6]([N:9]([H:12])[H:13])[H:10])[H:11],59.84969499998897
MR_299331_1,[C:1]([C:4]([H:22])([H:23])[H:24])(/[C:7](=[C:6](/[N:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])[N:8]([H:10])[H:11])[N:9]([H:12])[H:13])([H:14])[H:15]>>[C:1]([C:4]([H:22])([H:23])[H:24])(/[C:6](=[C:7](/[N:5]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])[N:9]([H:12])[H:13])[N:8]([H:10])[H:11])([H:14])[H:15],69.07582750002291
MR_189737_2,[C:1](/[C:3]([N:2](/[N:6]=[N:7]/[H:10])[H:9])=[C:4](/[O:5][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]/[H:9])[C:4]([O:5][H:8])(/[N:6]=[N:7]/[H:10])[H:11])([H:12])([H:13])[H:14],34.289737499995994
MR_126519_1,[C:1]([N:2]([C:3]([N:5]([H:11])[H:12])=[O:7])[N:4]([H:9])[H:10])([O:6][H:8])([H:13])[H:14]>>[C:1]([O:6][H:8])([O:7]/[C:3](=[N:2]/[N:4]([H:9])[H:10])[N:5]([H:11])[H:12])([H:13])[H:14],62.65838499999589
MR_263648_2,[C:1]1([C:4]([H:14])([H:15])[H:16])([N:5]([H:8])[H:9])[C:2]([N:6]([H:10])[H:11])([H:7])[C:3]1([H:12])[H:13]>>[C:1]([C:2]([N:5]([H:8])[H:9])([N:6]([H:10])[H:11])[H:7])(=[C:3]([H:12])[H:13])[C:4]([H:14])([H:15])[H:16],58.57022250004477
MR_606772_1,[C:1]([N:3]([H:13])[H:14])([C:4](=[C:2]([O:7][H:11])[O:8][H:12])[H:15])([O:5][H:9])[O:6][H:10]>>[C:1](=[C:4]([C:2]([N:3]([H:13])[H:14])([O:7][H:11])[O:8][H:12])[H:15])([O:5][H:9])[O:6][H:10],51.10422750002556
MR_262057_2,[C:1]([C:3]([H:13])([H:14])[H:15])([C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:12])([N:8]=[C:6]([H:16])[H:17])[O:9][H:10])=[O:7]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([H:11])[H:12])=[O:9])([O:7][H:10])[N:8]=[C:6]([H:16])[H:17],50.29349750000364
MR_157914_0,[C:1]1([C:3]([H:15])([H:16])[H:17])([O:8][H:11])[N:5]([H:12])[C:2]([C:4]([H:18])([H:19])[H:20])([H:14])[C:6]1([O:7][H:10])[O:9][H:13]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([C:4]([H:18])([H:19])[H:20])([C:6]([O:7][H:10])=[O:9])[H:14])[H:12])([O:8][H:11])[H:13],65.34094750000023
MR_160164_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:3]([C:4](=[O:6])[H:8])=[N:5]/[H:7])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]1([H:8])/[C:3](=[N:5]/[H:7])[O:6]1)([H:9])[H:10],67.98585999999261
MR_464427_2,[C@@:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C@:2]([N:4]([H:10])[H:11])([H:9])[N:7]=[C:5]([H:12])[O:6]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([H:8])[C:5](/[N:7]=[C:2](/[N:4]([H:10])[H:11])[H:9])([H:12])[O:6]1,66.18932749996276
MR_126835_2,[C:1](=[C:4]([C:5]([N:2]([O:6][H:8])[H:9])(/[C:3](=[N:7]\[H:10])[H:13])[H:15])[H:14])([H:11])[H:12]>>[C:1]([N:2]([O:6][H:8])[H:9])(/[C:4](=[C:5]([C:3](=[N:7]\[H:10])/[H:13])\[H:15])[H:14])([H:11])[H:12],48.9362150000062
MR_692280_1,[C:1](/[N:8]=[C:3](\[C:2]([H:15])([H:16])[H:17])[O:6]/[C:5](=[N:7]\[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8]([C:3]([C:2]([H:15])([H:16])[H:17])=[O:6])/[C:5](=[N:7]\[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],32.47249750001842
MR_405858_1,[C:1]([N:2]([H:7])[H:8])([N:3]([H:9])[H:10])(/[C:4](=[N:5]/[H:11])[H:12])[H:6]>>[C:1]1([N:2]([H:7])[H:8])([N:3]([H:9])[H:10])[C:4]([H:6])([H:12])[N:5]1[H:11],44.46214000001284
